US06506762B1
C. [3-(2,4dichlorophenyl)-2,5-dimethylimidazolo[5,4-b]pyridin-7-yl](2-chloroethyl)amine
Treat a solution of N-[3-(2,4-dichlorophenyl)-2,5-dimethylimidazolo[5,4-b]pyridin-7-yl]-2-chloroacetamide (1.0 g, 2.6 mmol) in THF (5 mL) with borane-methyl sulfide complex (0.8 mL, 7.8 mmol). Heat the mixture to reflux for 3 h and quench at ambient temperature with a large excess of MeOH followed by 5 N HCl (2 mL). Re-heat the mixture to reflux for 1 h, then concentrate under reduced pressure. Purify by flash column chromatography (50% EtOAc-hexane) to obtain the title compound as a beige solid.

reactant | N-[3-(2,4-dichlorophenyl)-2,5-dimethylimidazolo[5,4-b]pyridin-7-yl]-2-chloroacetamide | 2.6 mmol, 1.0 g | ClC1=C(C=CC(=C1)Cl)N1C(=NC=2C1=NC(=CC2NC(CCl)=O)C)C | C16H13Cl3N4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [3-(2,4dichlorophenyl)-2,5-dimethylimidazolo[5,4-b]pyridin-7-yl](2-chloroethyl)amine | ClC1=C(C=CC(=C1)Cl)N1C(=NC=2C1=NC(=CC2NCCCl)C)C | C16H15Cl3N4
